US05614544
2-Chloromethyl-5-methyl-4-phenylthiazole and triphenylphosphine were reacted in the same manner as in Reference Example 7 to yield (5- methyl-4-phenyl-2-thiazolylmethyl)triphenylphosphonium chloride. Melting point 256°-257° C.

reactant | 2-Chloromethyl-5-methyl-4-phenylthiazole | ClCC=1SC(=C(N1)C1=CC=CC=C1)C | C11H10ClNS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (5- methyl-4-phenyl-2-thiazolylmethyl)triphenylphosphonium chloride | [Cl-].CC1=C(N=C(S1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H25NPS.ClH/c1-23-29(24-14-6-2-7-15-24)30-28(32-23)22-31(25-16-8-3-9-17-25,26-18-10-4-11-19-26)27-20-12-5-13-21-27;/h2-21H,22H2,1H3;1H/q+1;/p-1
